US07595320B2
1 g (3.94 mmol) of 3,5-dibromo-1H-pyrazole-4-carboxaldehyde, 1.5 mL (16 mmol) of ethyl vinyl ether and 3 drops of concentrated 12 N hydrochloric acid are introduced with stirring into 30 mL of toluene at a temperature in the region of 20° C. The reaction mixture is stirred for 15 hours at a temperature in the region of 20° C., followed by addition of 1.5 mL (16 mmol) of ethyl vinyl ether, and stirring is continued for 15 hours at a temperature in the region of 20° C. The reaction mixture is then diluted with 20 mL of toluene and washed with twice 30 mL of saturated sodium hydrogen carbonate solution. The organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa) to give 1.19 g of 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde in the form of a yellow oil. 1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.10 (t, J=7.5 Hz: 3H); 1.64 (d, J=6.5 Hz: 3H); 3.31 (mt: 1H); 3.51 (mt: 1H); 5.88 (q, J=6.5 Hz: 1H); 9.73 (s: 1H).

reactant | 3,5-dibromo-1H-pyrazole-4-carboxaldehyde | 3.94 mmol, 1 g | BrC1=NNC(=C1C=O)Br | C4H2Br2N2O
reactant | ethyl vinyl ether | 16 mmol, 1.5 mL | C(=C)OCC | C4H8O
reactant | hydrochloric acid | 12 N | Cl | ClH
reactant | ethyl vinyl ether | 16 mmol, 1.5 mL | C(=C)OCC | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde | 1.19 g | BrC1=NN(C(=C1C=O)Br)C(C)OCC | C8H10Br2N2O2
